US05112977
a) 2-Methylthio-naphthacene-5,12-dione
3.62 mmol of 2-fluoro-naphthacene-5,12-dione (prepared according to U.S. Pat. No. 4,522,754), 3.98 mmol of NaSCH3, 10.86 mmol of potassium carbonate and 10 ml of DMSO are stirred at 25° C. for 3 minutes. The mixture is poured onto water. The crystals are filtered off and dissolved in tetrahydrofuran/toluene and the solution is dried over sodium sulfate and evaporated. The residue is recrystallized from THF/toluene/pentane. Yield 1 g (83%); melting point 195°-196° C.

reactant | 2-fluoro-naphthacene-5,12-dione | 3.62 mmol | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | potassium carbonate | 10.86 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 2-Methylthio-naphthacene-5,12-dione | CSC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C19H12O2S
